US07335687B2
A solution of 160 mg (0.37 mmol) trans-Methanesulfonic acid 5-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-pentyl ester and of 0.21 ml N-allylmethylamine in 3 ml of methanol was stirred over night at 60° C. The solution was concentrated in vacuo, and the residue then purified by chromatography on silica gel with 1N NH3/methanol 1:10 to yield 110 mg pure trans-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl}-methyl-carbamic acid 4-chloro-phenyl ester, MS: 407 (MH+, 1Cl).

reactant | trans-Methanesulfonic acid 5-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-pentyl ester | 0.37 mmol, 160 mg | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)CCCCCOS(=O)(=O)C)C)C=C1 | C20H30ClNO5S
reactant | N-allylmethylamine | 0.21 ml | C(C=C)CN | C4H9N
reactant | methanol | 3 ml | CO | CH4O
product | trans-{4-[5-(Allyl-methyl-amino)-pentyl]-cyclohexyl}-methyl-carbamic acid 4-chloro-phenyl ester | 110 mg | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCCN(C)CC=C)=O | C23H35ClN2O2
